US04769472
(3-bromothien-2-yl) (2-methoxyphenyl)methanone oxime
A solution of 20 g of (3-bromothien-2-yl) (2-methoxyphenyl)methanone in 200 g of pyridine containing 10 g of hydroxylamine hydrochloride was heated at 100° for 10 minutes and thereafter allowed to cool. After standing at room temperature for 16 hours, the solution was poured onto 600 g of ice water and the organics were extracted into ether. The combined ether solution was washed with 1N hydrochloric acid and water, and dried over anhydrous magnesium sulfate. Evaporation of the solvent under vacuum left a solid residue which was recrystallized from ether/hexane to give prisms, m.p. 129°-130° C.

reactant | (3-bromothien-2-yl) (2-methoxyphenyl)methanone | 20 g | BrC1=C(SC=C1)C(=O)C1=C(C=CC=C1)OC | C12H9BrO2S
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | 200 g | N1=CC=CC=C1 | C5H5N
product | (3-bromothien-2-yl) (2-methoxyphenyl)methanone oxime | BrC1=C(SC=C1)C(=NO)C1=C(C=CC=C1)OC | C12H10BrNO2S
